US07622598B2
An ethanol solution (24.5 ml) of colletochlorin B (991 mg, 3.07 mmol) described in H. Saimoto et al., Bull. Chem. Soc. Jpn., 67, 1178 (1994) was stirred in the presence of 5% Pd/C (496 mg) at 0° C. in a hydrogen atmosphere for 4.5 hours. After the catalyst was separated by filtration with the use of Celite, the filtrate was concentrated to obtain a crude product (963 mg). This product was purified by silica gel column chromatography (hexane:diethyl ether=30:1) to obtain 3-chloro-4,6-dihydroxy-5-(3,7-dimethyloctyl)-2-methylbenzaldehyde (pale yellow solid 220 mg, yield 22%).

reactant | colletochlorin B | 3.07 mmol, 991 mg | CC1=C(C(=C(C(=C1Cl)O)C/C=C(\C)/CCC=C(C)C)O)C=O | C18H23ClO3
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 496 mg | [Pd] | Pd
solvent | ethanol | 24.5 ml | C(C)O | C2H6O
product | 3-chloro-4,6-dihydroxy-5-(3,7-dimethyloctyl)-2-methylbenzaldehyde | 220 mg, yield 22% | ClC=1C(=C(C=O)C(=C(C1O)CCC(CCCC(C)C)C)O)C | C18H27ClO3
